US08420655B2
5-{1-tert-Butyl-2-[5-methoxy-2-(3-methyl-pyrazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a solution of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (100 mg, 0.38 mmol) in DMF (3 mL) is added 5-methoxy-2-(3-methyl-pyrazol-1-yl)-benzaldehyde (90 mg, 0.42 mmol) at room temperature. Oxone (230 mg, 0.38 mmol) in H2O (1 mL) is added and the solution is stirred at the same temperature for 12 hours. The reaction is poured into water (25 mL) and sodium thiosulfate (sat., 20 mL). The product is extracted into EtOAc (3×) and the combined organics are then dried (MgSO4), filtered, and concentrated. Purification via flash chromatography (silica gel, 0-8% MeOH/CH2Cl2) affords the title compound (65 mg, 38%). LCMS (ESMS): m/z 454.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.38 mmol, 100 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 5-methoxy-2-(3-methyl-pyrazol-1-yl)-benzaldehyde | 0.42 mmol, 90 mg | COC=1C=CC(=C(C=O)C1)N1N=C(C=C1)C | C12H12N2O2
reactant | Oxone | 0.38 mmol, 230 mg | OOS(=O)[O-].[K+]
reactant | sodium thiosulfate | 20 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | 5-{1-tert-Butyl-2-[5-methoxy-2-(3-methyl-pyrazol-1-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 65 mg, 38% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)OC)N2N=C(C=C2)C | C26H27N7O
